US07884099B2
Step 3: 1-Cyclopropyl-6-fluoro-8-methoxy-4-oxo-7-[4-(piperidin-4-ylamino)-piperidin-1-yl]-1,4-dihydro-quinoline-3-carboxylic acid.
To a stirred solution of 7-[4-(1-tert-Butoxycarbonyl-piperidin-4-ylamino)-piperidin-1-yl]-1-cyclopropyl-6-fluoro-8-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (113 mg, 0.2 mmol) in dichloroethane (1.5 mL) was added trifluoroacetic acid (692 mg, 6.07 mmol). The resulting mixture was stirred for 3 hours before condensed to dryness. To this residue was added saturated aqueous sodium carbonate followed by the addition of acetic acid to pH around 6. This aqueous solution was extracted with 20% (v/v) isopropanol/dichloromethane. The combined organic layers were dried over sodium sulfate and condensed to give product as slightly yellow syrup, which was used directly for next reaction. ESI MS m/z 459 (M+H+); 1H NMR (400 MHz, CDCl3) δ 8.74 (s, 1H), 7.78 (d, J=11.6 Hz, 1H), 3.98 (m, 3H), 3.71 (s, 3H), 3.54 (d, J=13.2 Hz, 2H), 3.33 (t, J=13.3 Hz, 2H), 3.14 (m, 1H), 2.91 (d, J=12.5 Hz, 2H), 2.11 (d, J=11.7 Hz, 2H), 2.00 (m, 2H), 1.78 (m, 4H), 1.16 (d, J=7.0 Hz, 2H), 0.93 (d, J=3.3 Hz, 2H).

reactant | 7-[4-(1-tert-Butoxycarbonyl-piperidin-4-ylamino)-piperidin-1-yl]-1-cyclopropyl-6-fluoro-8-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 0.2 mmol, 113 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1CCN(CC1)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C29H39FN4O6
reactant | trifluoroacetic acid | 6.07 mmol, 692 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 1.5 mL | ClC(C)Cl | C2H4Cl2
product | 1-Cyclopropyl-6-fluoro-8-methoxy-4-oxo-7-[4-(piperidin-4-ylamino)-piperidin-1-yl]-1,4-dihydro-quinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CCC(CC1)NC1CCNCC1)F)=O)C(=O)O | C24H31FN4O4
